US04051153
This compound was prepared starting from the rac. 3-benzyloxy-2-methyl-1-propyl bromide and racemic citronellal using the procedure described in Example 4. Rac.-1-benzyloxy-2,6,10-trimethyl-9-undecen-4-ol was obtained as a colorless oil, b.p. 145°-150° C. (bath temperature) (0.01 mm Hg.)

reactant | rac. 3-benzyloxy-2-methyl-1-propyl bromide | C(C1=CC=CC=C1)OCC(CBr)C | C11H15BrO
reactant | racemic citronellal | CC(C)=CCCC(C)CC=O | C10H18O
product | Rac.-1-benzyloxy-2,6,10-trimethyl-9-undecen-4-ol | C(C1=CC=CC=C1)OCC(CC(CC(CCC=C(C)C)C)O)C | C21H34O2
